US05728686
b) Diethyl 5-hydroxypentylphosphonate
92 g (0.345 mol) of 5-(diethylphosphono)pentyl acetate were heated at 50° C. for 10 hours with stirring with 74 g (0.7 mol) of finely powdered sodium carbonate in 500 ml of methanol. The solution was filtered, concentrated and distilled in a bulb tube.

reactant | 5-(diethylphosphono)pentyl acetate | 0.345 mol, 92 g | C(C)(=O)OCCCCCP(=O)(OCC)OCC | C11H23O5P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | Diethyl 5-hydroxypentylphosphonate | OCCCCCP(OCC)(OCC)=O | C9H21O4P
